* Title: Simple circuit
.options savecurrents
va b 0 dc 5.00662232904

id f e dc 1.01708754235m

r1 b c 1.03301019518k
r2 d c 2.0748608676k
r3 c h 3.05514376545k
r4 h 0 4.15047871791k
r5 h e 3.02449899207k
r6 0 g 2.08776908673k
vr6 g i dc 0
r7 i f 1.03338176153k

g1 e d c h 7.32769926486m

h1 h f vr6 8.37701206687m

.control
op
echo  "op_TAB"
print all
echo  "op_END"

quit
.endc

.end

